US06235789B1
To a solution of 1-[2-(acetylamino)ethyl]-6-hydroxyindan (1.00 g, 4.56 mmol), ethanol (0.32 ml, 5.47 mmol) and triphenylphosphine (1.32 g, 5.02 mmol) in THF (20 ml) was added dropwise, under ice-cooling, diethyl azodicarboxylate (0.87 g, 5.02 mmol). The mixture was stirred for 15 hours at room temperature. The reaction mixture was concentrated under reduced pressure. To the concentrate was added water, and the mixture was subjected to extraction with ethyl acetate. The extract solution was washed with brine, which was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography (ethyl acetate→ethyl acetate/methanol, 95:5) to give 1-[2-(acetylamino)ethyl]-6-ethoxyindan. To this compound was added hydrazine hydrate (20 ml). The mixture was heated under reflux for 15 hours under argon atmosphere. The reaction mixture was cooled, to which was added water. The mixture was subjected to extraction with ethyl acetate. The extract solution was washed with brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 0.34 g (yield 36%) of the above-titled compound as an oily product.

reactant | 1-[2-(acetylamino)ethyl]-6-hydroxyindan | 4.56 mmol, 1.00 g | C(C)(=O)NCCC1CCC2=CC=C(C=C12)O | C13H17NO2
reactant | ethanol | 5.47 mmol, 0.32 ml | C(C)O | C2H6O
reactant | triphenylphosphine | 5.02 mmol, 1.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.02 mmol, 0.87 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[2-(acetylamino)ethyl]-6-ethoxyindan | C(C)(=O)NCCC1CCC2=CC=C(C=C12)OCC | C15H21NO2
